US04349552
The reaction of 2-thienylacetic acid and diphenylphosphoryl azide in a solution of triethyl amine and benzene provided a solution comprising 2-thienylmethyl isocyanate, which was reacted with 5-fluorouracil to provide 1-[N-(2-thienylmethyl)carbamoyl]-5-fluorouracil substantially in the similar method to that of Example 13.

reactant | 2-thienylacetic acid | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | diphenylphosphoryl azide | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2-thienylmethyl isocyanate | S1C(=CC=C1)CN=C=O | C6H5NOS
reactant | 5-fluorouracil | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
product | 1-[N-(2-thienylmethyl)carbamoyl]-5-fluorouracil | S1C(=CC=C1)CNC(=O)N1C(=O)NC(=O)C(=C1)F | C10H8FN3O3S
